US09260425B2
To a solution of 5-bromo-1H-pyrazolo[3,4-c]pyridine (100 mg, 0.5 mmol) in DME:EtOH (5:1, 5 mL) was added Pd(dppf)Cl2 (20 mg), saturated solution of Na2CO3 (1 mL) and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (116 mg, 0.6 mmol). Under argon the mixture was stirred under microwave irradiation at 150° C. for 60 min. After cooling down, the solvent was removed under reduced pressure and the residue was purified by silica-gel column chromatography (mobile phase: EA:PE=1:1) to afford 5-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-c]pyridine (20 mg, 22%). 1H NMR (500 MHz, MeOD) δ 9.05 (s, 1H), 8.24 (m, 2H), 7.75 (s, 1H), 6.89 (s, 1H). ESI MS m/z=186.1 (M+1)

reactant | 5-bromo-1H-pyrazolo[3,4-c]pyridine | 0.5 mmol, 100 mg | BrC=1C=C2C(=CN1)NN=C2 | C6H4BrN3
reactant | Na2CO3 | 1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.6 mmol, 116 mg | CC1(OB(OC1(C)C)C1=CC=NN1)C | C9H15BN2O2
solvent | DME EtOH | 5 mL | COCCOC.CCO
catalyst | Pd(dppf)Cl2 | 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-c]pyridine | 20 mg, 22% | N1N=CC(=C1)C=1C=C2C(=CN1)NN=C2 | C9H7N5
